US05705188
Synthesis of 1,2-O-dioleylglycerol
1,2-O-Dioleyl-3-O-tritylglycerol (6.10 g, 7.3 mmol) was reacted with 5% trichloroacetic acid/methylene chloride (50 ml, w/v) at ambient temperature for 1 hour. The organic layer was then washed with saturated aqueous sodium hydrogen carbonate solution and water, dried, and concentrated. The residue was purified by column chromatography (silica gel/chloroform) to provide 3.75 g (87%) of the title compound.

reactant | 1,2-O-Dioleyl-3-O-tritylglycerol | 7.3 mmol, 6.10 g | C(CCCCCCC\C=C/CCCCCCCC)OCC(OCCCCCCCC\C=C/CCCCCCCC)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C58H90O3
solvent | trichloroacetic acid methylene chloride | 50 ml | ClC(C(=O)O)(Cl)Cl.C(Cl)Cl
product | 1,2-O-dioleylglycerol | 3.75 g, 87% | C(CCCCCCC\C=C/CCCCCCCC)OCC(OCCCCCCCC\C=C/CCCCCCCC)CO | C39H76O3
